### PR TITLE
Adds generalizations of theorems relying on injectivity

### PR DESCRIPTION
**Pull request by ybertot**
- f_finv
- finv_f
- fconnect_sym
- iter_order
- iter_finv
- cycle_orbit
- fpath_finv (* I need to sub-theorems for this case. *)

All generalizations are named "subset_..." the existing theorems are now
instances of the generalizations.

### CODE REVIEW

**Comment by ggonthier** [comment]
These should be useful generalisations. Three quick observations:
  - the naming convention for relativised lemmas is an `_in` suffix, see `seq.v` or `fintype.v` for instances.
  - the generic predicate parameter `S` should be declared with the `pred_class` idiom, as this can make it easier to instantiate it explicitly.
  - `ssrbool.v` provides helper lemmas (`in1T` and such) to derive unbounded lemmas from relativised ones.

File: mathcomp/ssreflect/fingraph.v [hunk 1]
```diff
@@ -464,18 +464,122 @@ Qed.
...
+Lemma finv_inj_in : {in S &, injective finv}.
+Proof.
+by move => x y sx sy q; rewrite -(f_finv_in sx) q (f_finv_in sy).
+Qed.
+
+Lemma fconnect_sym_in :
+  {in S &, forall x y, fconnect f x y = fconnect f y x}.
+Proof.
+suff Sf x y (sx : x \in S) (sy : y \in S): fconnect f x y -> fconnect f y x.
+  by move => x y sx xy; apply/idP/idP; auto.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/fingraph.v]: remove auto
